US05571506
Step 4: Preparation of Methyl 5-Acetoxy-2-formyl-4-methoxyhydrocinnamate
A mixture of methyl 5-acetoxy-2-formyl-4-methoxycinnamate (10.8 g) and 10% palladium on carbon (3 g) in ethyl acetate (100 ml) is hydrogenated at 45 psi for about 18 hours and filtered. The filtrate is concentrated in vacuo and the residue purified by HPLC, eluting 50% ethyl acetate in hexanes, to give the desired product.

reactant | methyl 5-acetoxy-2-formyl-4-methoxycinnamate | 10.8 g | C(C)(=O)OC=1C(=CC(=C(C=CC(=O)OC)C1)C=O)OC | C14H14O6
catalyst | palladium on carbon | 3 g | [Pd] | Pd
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Methyl 5-Acetoxy-2-formyl-4-methoxyhydrocinnamate | C(C)(=O)OC=1C(=CC(=C(CCC(=O)OC)C1)C=O)OC | C14H16O6
